US07820837B2
methyl {6-[(2-phenyl-1,3-thiazol-4-yl)methoxy]-2,3-dihydro-1-benzofuran-3-yl}acetate
Methyl (6-hydroxy-2,3-dihydro-1-benzofuran-3-yl)acetate (200 mg, 0.961 mmol) and 4-(chloromethyl)-2-phenyl-1,3-thiazole (240 mg, 1.14 mmol) were dissolved in N,N-dimethylformamide (5 mL), and potassium carbonate (160 mg, 1.16 mmol) was added, and the mixture was stirred at 60-70° C. for 3 hr. Water was added to the reaction mixture, and the mixture was neutralized with 2 M hydrochloric acid. The precipitated crystals were recrystallized from ethyl acetate-diisopropyl ether to give the title compound (270 mg, yield 74%) as colorless prism crystals.

reactant | Methyl (6-hydroxy-2,3-dihydro-1-benzofuran-3-yl)acetate | 0.961 mmol, 200 mg | OC1=CC2=C(C(CO2)CC(=O)OC)C=C1 | C11H12O4
reactant | 4-(chloromethyl)-2-phenyl-1,3-thiazole | 1.14 mmol, 240 mg | ClCC=1N=C(SC1)C1=CC=CC=C1 | C10H8ClNS
reactant | potassium carbonate | 1.16 mmol, 160 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | methyl {6-[(2-phenyl-1,3-thiazol-4-yl)methoxy]-2,3-dihydro-1-benzofuran-3-yl}acetate | 270 mg, yield 74% | C1(=CC=CC=C1)C=1SC=C(N1)COC1=CC2=C(C(CO2)CC(=O)OC)C=C1 | C21H19NO4S
